US04451471
0.217 g of ethyl mercaptan is dissolved under nitrogen in 10 ml of hexamethylphosphoric acid triamide, the solution is cooled to 10° and, while stirring, 170 mg of 50% strength sodium hydride suspension (in mineral oil, de-oiled with hexane) are added in portions. The mixture is then stirred for 15 minutes at room temperature, 1.0 g of 2-chloro-4,5-bis-(p-methoxyphenyl)-thiazole is added and stirring is carried out at room temperature for 1 hour. The mixture is then poured into 300 ml of 10% strength sodium chloride solution, digested until crystallisation occurs and filtered with suction and the residue is then washed twice with water and sucked dry on a suction filter. The crude product is recrystallised from methanol. 2-Ethylthio-4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 73°-75° is obtained.

reactant | ethyl mercaptan | 0.217 g | C(C)S | C2H6S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4,5-bis-(p-methoxyphenyl)-thiazole | 1.0 g | ClC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H14ClNO2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexamethylphosphoric acid triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-Ethylthio-4,5-bis-(p-methoxyphenyl)-thiazole | C(C)SC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H19NO2S2
